US07994185B2
Intermediate 9: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide
To a solution of N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide (1.0 g, 2.4 mmol) in 25 mL DMA, NBS (0.420 g, 2.4 mmol) was added and the solution was allowed to stir 15 minutes at rt. 2,2-Dimethylpropanethioamide (0.277 g, 2.359 mmol) was then added and the reaction mixture was heated at 80° C. for 2 h. The reaction mixture was diluted with EtOAc and washed with water ×3. The organic layer was dried over MgSO4 and filtered. The organic solution was evaporated onto silica gel and chromatographed. 0-50% EtOAc in DCM to give the title compound (1.01 g, 81% yield). ES-LCMS m/z 521.1 (M+H).

reactant | N-{3-[(Z)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,5-difluorobenzenesulfonamide | 2.4 mmol, 1.0 g | ClC1=NC=CC(=N1)\C=C(/O)\C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C18H12ClF2N3O3S
reactant | NBS | 2.4 mmol, 0.420 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2-Dimethylpropanethioamide | 2.359 mmol, 0.277 g | CC(C(N)=S)(C)C | C5H11NS
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 1.01 g, 81% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H19ClF2N4O2S2
